US07420055B2
Synthesis of 4-Methyl-4-phenyl-tetrahydro-pyran
3-Methyl-3-phenyl-pentane-1,5-diol (3.88 g, 20 mmol), Ag2O (6.95 g (30 mmol), potassium iodide (0.66 g, 4 mmol) were suspended in 50 mL DCM and treated with a solution of p-toluenesulfonyl chloride (4.19 g, 22 mmol) in 30 mL DCM. The mixture was allowed to stir under nitrogen atmosphere for 16 h. The crude reaction mixture was applied on a short plug of silica gel column and the product was collected by washing with DCM. The solvent was evaporated and the residue was dissolved in dry THF (30 mL) and added drop wise to a suspension of NaH (0.8 g of 60% suspension in mineral oil, 20 mmol) in THF (30 ml). The reaction mixture was allowed to stir at room temperature for 24 h and was then diluted with 60 mL ether and washed with water (60 mL). The aqueous phase was washed once with ether (30 mL) and the organic extracts were combined, washed with brine, dried over Na2SO4 and the solvent was evaporated by rotary evaporation. The product was purified by flash chromatography on silica gel column using 0-5% hexane/ethylacetate solvent mixture as the mobile phase. MS: m/z 177.1 (M++1).

reactant | 3-Methyl-3-phenyl-pentane-1,5-diol | 20 mmol, 3.88 g | CC(CCO)(CCO)C1=CC=CC=C1 | C12H18O2
reactant | potassium iodide | 4 mmol, 0.66 g | [I-].[K+]
reactant | p-toluenesulfonyl chloride | 22 mmol, 4.19 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaH | 20 mmol, 0.8 g | [H-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 60 mL | CCOCC | C4H10O
product | 4-Methyl-4-phenyl-tetrahydro-pyran | CC1(CCOCC1)C1=CC=CC=C1 | C12H16O
